US05100913
VII a) Preparation of 4-[(4-fluorophenyl)sulfonyl]benzenethiol
A solution of sodium nitrite (302 mg in 1 ml of water) is added to a suspension of 1 g (0.00398 mol) of 4-[(4-fluorophenyl)sulfonyl]benzeneamine in a solution of hydrochloric acid (1.68 ml of concentrated hydrochloric acid in 5 ml of water) at 5° C. After stirring for 5 minutes, this solution is added dropwise to a solution of 2.47 g of potassium ethylxanthate in 5 ml of water at 70° C. The reaction mixture is diluted with ethyl acetate. The organic phase is washed with a 1 N solution of sodium hydroxide and a saturated solution of sodium chloride and then dried over magnesium sulfate. After evaporation of the solvents, the residue is taken up in 15 ml of ethanol. 1.47 g of potassium hydroxide are added and the reaction mixture is heated at 45° C. for 10 minutes. It is then poured into iced water and partially purified by extraction with ethyl acetate. The aqueous phase, cooled with ice, is rendered acidic by the addition of concentrated hydrochloric acid and is then extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and the solvents are evaporated off to dryness. 640 mg (yield: 60%) of the expected product are thus obtained.

reactant | sodium nitrite | 1 ml, 302 mg | N(=O)[O-].[Na+]
reactant | 4-[(4-fluorophenyl)sulfonyl]benzeneamine | 0.00398 mol, 1 g | FC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H10FNO2S
reactant | hydrochloric acid | 1.68 ml | Cl | ClH
reactant | potassium ethylxanthate | 2.47 g | C(C)OC(=S)[S-].[K+]
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(4-fluorophenyl)sulfonyl]benzenethiol | 640 mg, yield: 60% | FC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)S | C12H9FO2S2
